US07851473B2
(2) N-Isoxazol-3-yl-4-(3-phenyl-1,2,4-thiadiazol-5-yl)piperazine-1-carboxamide
A mixed solution of 2,2,2-trichloroethyl isoxazol-3-ylcarbamate (192 mg, 0.738 mmol), 1-(3-phenyl-1,2,4-thiadiazol-5-yl)piperazine (200 mg, 0.812 mmol) and diisopropylethylamine (0.129 ml, 0.738 mmol) in dimethyl sulfoxide (2.5 ml) was stirred at 70° C. for 3 hours. Water was poured to the reaction mixture, and the resulting solution was extracted with ethyl acetate. The extract was washed with water and dried over anhydrous magnesium sulfate, and the solvent was distilled off under reduced pressure. The residue was purified by silica gel column chromatography (ethyl acetate:hexane=1:1) and recrystallized from a mixed solvent of hexane and tetrahydrofuran to give 49.5 mg (18.8%) of the desired product as a solid.

reactant | 2,2,2-trichloroethyl isoxazol-3-ylcarbamate | 0.738 mmol, 192 mg | O1N=C(C=C1)NC(OCC(Cl)(Cl)Cl)=O | C6H5Cl3N2O3
reactant | 1-(3-phenyl-1,2,4-thiadiazol-5-yl)piperazine | 0.812 mmol, 200 mg | C1(=CC=CC=C1)C1=NSC(=N1)N1CCNCC1 | C12H14N4S
reactant | diisopropylethylamine | 0.738 mmol, 0.129 ml | C(C)(C)N(CC)C(C)C | C8H19N
reactant | Water | O | H2O
solvent | dimethyl sulfoxide | 2.5 ml | CS(=O)C | C2H6OS
product | N-Isoxazol-3-yl-4-(3-phenyl-1,2,4-thiadiazol-5-yl)piperazine-1-carboxamide | 49.5 mg, 18.8% | O1N=C(C=C1)NC(=O)N1CCN(CC1)C1=NC(=NS1)C1=CC=CC=C1 | C16H16N6O2S
